US06518423B1
Methyl(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetothioimidate
Into 15 ml of a solution of 318 mg of (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)thioacetamide in acetone was dropped 1.5 m of methyl iodide. After stirring at room temperature for 2 hours, the reaction mixture was distributed into ethyl acetate and an aqueous solution of potassium carbonate. The organic layer was extracted and the extract was washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, 350 mg of the title compound was obtained as a yellow oily substance.

reactant | (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)thioacetamide | 318 mg | COCN1C2=C(SC3=C1C=C(C=C3)CC(=S)N)N=CC=N2 | C14H14N4OS2
reactant | methyl iodide | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Methyl(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetothioimidate | 350 mg | CSC(CC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1)=N | C15H16N4OS2
